US06265411B1
Iron powder (11.5 g, 205.2 mmol) was added to a saturated solution of ethyl(4-cyano-2-nitrophenyl)acetate (12 g, 51.3 mmol) in hot glacial acetic acid and the reaction mixture was stirred at 100° C. for 2 hours. The mixture was allowed to cool and poured into stirred ice water (1000 ml). The aqueous mixture was extracted with ethyl acetate, the extracts were combined, dried (MgSO4) and the solvent removed by evaporation. The solid residue was recrystallised from ethyl acetate to give 6-cyanooxindole (6.94 g, 85%).

reactant | ethyl(4-cyano-2-nitrophenyl)acetate | 51.3 mmol, 12 g | C(C)OC(CC1=C(C=C(C=C1)C#N)[N+](=O)[O-])=O | C11H10N2O4
solvent | acetic acid | C(C)(=O)O | C2H4O2
catalyst | Iron | 205.2 mmol, 11.5 g | [Fe] | Fe
product | 6-cyanooxindole | 6.94 g, 85% | C(#N)C1=CC=C2CC(NC2=C1)=O | C9H6N2O
